US09227948B2
Preparation of 4-(ethoxymethoxy)-2-hydroxy-3-methylbenzaldehyde
By following Example 2 procedure, 25.0 g of 2,4-dihydroxy-3-methylbenzaldehyde was reacted with 40.0 g of ethoxymethyl chloride (prepared from 23 g of diethoxymethane and 17.3 g of acetyl chloride) and 31.8 g of N,N-diisopropylethylamine to get 36.0 g of crude title product containing 11.5% of 2,4-bis(ethoxymethoxy)-3-methylbenzaldehyde by GC. Crude product was purified by column chromatography to get the title compound (25.0 g) as white solid. DSC: 43.1° C. (peak). IR (KBr): 3283, 3095, 3038, 2972, 2952, 2909, 2876, 2807, 2765, 2734, 1641, 1621, 1584, 1492, 1453, 1434, 1396, 1320, 1298, 1242, 1176, 1128, 1094, 1071, 1017, 978, 882, 849, 807, 777, 736, 691, 642, and 617 cm−1. 1H-NMR (CDCl3, 400 MHz): δ 11.48 (s, 1H, exch. with D2O, OH), 9.73 (s, 1H, CHO), 7.35 (d, J=8.8 Hz, 1H, H-6), 6.78 (d, J=8.8 Hz, 1H, H-5), 5.33 (s, 2H, OCH2O), 3.74 (q, J=6.8 Hz, 2H, OCH2CH3), 2.12 (s, 3H, ArCH3), 1.23 (t, J=6.8 Hz, 3H, OCH2CH3) 13C NMR (CDCl3, 100 MHz): δ 194.91 (CHO), 162.11 (C-4), 161.30 (C-2), 132.72 (C-6), 115.72 (C-1), 114.26 (C-3), 105.82 (C-5), 92.81 (OCH2O), 64.76 (OCH2CH3), 15.06 (OCH2CH3), 7.47 (ArCH3). Mass (EIMS): 210.17 (M), 209.10 (M−1).

reactant | 2,4-dihydroxy-3-methylbenzaldehyde | 25.0 g | OC1=C(C=O)C=CC(=C1C)O | C8H8O3
reactant | ethoxymethyl chloride | 40.0 g | C(C)OCCl | C3H7ClO
reactant | N,N-diisopropylethylamine | 31.8 g | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 2,4-bis(ethoxymethoxy)-3-methylbenzaldehyde | C(C)OCOC1=C(C=O)C=CC(=C1C)OCOCC | C14H20O5
product | 4-(ethoxymethoxy)-2-hydroxy-3-methylbenzaldehyde | 25.0 g | C(C)OCOC1=C(C(=C(C=O)C=C1)O)C | C11H14O4
